US04994493
A mixture of 14 g of 3-phenylpropyl bromide, 7.5 g of methyl anthranilate and 18 g of finely ground anhydrous potassium carbonate in 40 ml of anhydrous dioxane is boiled under a reflux condenser with a protective atmosphere of argon gas for about 60 hours, with magnetic stirring. After the solvent has been removed by distillation, 200 ml of methylene chloride and 100 ml of water are added, the organic phase is separated off and dried over magnesium sulfate, and the solvent is driven off. Column chromatography of the residue on silica gel (mobile phase toluene/methanol=10:1) provides methyl 2-(3-phenylpropylamino)benzoate as a viscous yellow oil.

reactant | 3-phenylpropyl bromide | 14 g | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | methyl anthranilate | 7.5 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | methyl 2-(3-phenylpropylamino)benzoate | C1(=CC=CC=C1)CCCNC1=C(C(=O)OC)C=CC=C1 | C17H19NO2
